US06900216B2
A mixture of 2-chloro-1-(4-fluorobenzo[b]thiophen-2-yl]ethan-1-one (0.16 g; prepared in a manner similar to that described above), 2-imidazolidinethione (0.071 g), acetic acid (10 ml) and ethanol (5 ml) was heated under reflux for 2 hours then cooled to ambient temperature. The solvents were removed in vacuo and the residue was triturated with ether (10 ml). The resulting solid was collected by filtration and dried in vacuo at 60° C. for 2 hours to give 3-(4-fluorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride (0.19 g) as pale pink solid, m.p. 220-224° C.

reactant | 2-chloro-1-(4-fluorobenzo[b]thiophen-2-yl]ethan-1-one | ClCC(=O)C1=CC2=C(S1)C=CC=C2F | C10H6ClFOS
reactant | 2-imidazolidinethione | 0.071 g | N1C(NCC1)=S | C3H6N2S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-(4-fluorobenzo[b]thiophen-2-yl)-5,6-dihydroimidazo[2,1-b]thiazole hydrochloride | 0.19 g | Cl.FC1=CC=CC=2SC(=CC21)C=2N1C(SC2)=NCC1 | InChI=1S/C13H9FN2S2.ClH/c14-9-2-1-3-11-8(9)6-12(18-11)10-7-17-13-15-4-5-16(10)13;/h1-3,6-7H,4-5H2;1H
